US07186729B2
Step 1: 3-(4-Chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester
(R)-3-amino-1-N-Boc pyrrolidine (1.0 eq, 2.68 mmol), 4-chlorobenzyl bromide (1.0 eq, 2.68 mmol), and potassium carbonate (1.75 eq) were mixed in ethanol (10 mL) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo, taken up in ethyl acetate, filtered and concentrated. The crude product was purified by flash chromatography on silica using ethyl acetate. ESI-MS m/z: 311 (M+1), WV retention time: 1.18 min.

reactant | (R)-3-amino-1-N-Boc pyrrolidine | 2.68 mmol, 1.0 eq | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-chlorobenzyl bromide | 2.68 mmol, 1.0 eq | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | potassium carbonate | 1.75 eq | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(4-Chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=CC=C(C=C1)Cl | C16H23ClN2O2
